US07074934B2
A solution of ethyl γ-chloro-α-oximinoacetoacetate (2.10 g, 10.8 mmol) and thiobenzamide (1.49 g, 10.8 mmol) in dry benzene (15 mL) was heated to reflux. After 4 hours, the reaction mixture was poured onto NaHCO3 (sat., aq., 50 mL); The resulting mixture was extracted with ethyl acetate (2×50 mL); and the combined extracts dried over MgSO4 and evaporated under reduced pressure. Flash chromatography (ethyl acetate:hexane 1:4, Rf 0.30) then afforded impure ethyl α-oximino-2-phenylthiazole-4-acetate (3.22 g). The crude oxime was then dissolved in methanol (15 mL) and formic acid (50% aq., 15 mL) was added. The mixture was cooled to 0° C. and zinc dust (2.00 g, 30.6 mmol) was added portionwise over 30 minutes. The reaction mixture was allowed to warm to room temperature, and stirred for 6 hours. The solution was then filtered, basified to pH 9 with solid NaHCO3, and extracted with ethyl acetate (3×80 mL). The combined extracts were then dried and evaporated to afford D/L-2-phenylthiazol-4-ylglycine ethyl ester (1.43 g, 5.45 mmol, 50% from the chloro-oxime). The ester (194 mg, 0.74 mmol) was then dissolved in tetrahydrofuran (5 mL). Triethylamine (120 μL, 87 mg, 0.86 mmol) was added, followed by di-t-butyl dicarbonate (180 mg, 0.82 mmol). After stirring at room temperature for 4 days, water (20 mL) was added and the solution extracted with dichloromethane (2×20 mL). The combined extracts were evaporated and purified by flash column chromatography (ethyl acetate:hexane 1:4, Rf 0.45) to afford N-t-butyloxycarbonyl-D/L-2-phenylthiazol-4-ylglycine ethyl ester (158 mg, 0.44 mmol, 59%) as a clear oil. The oil was dissolved in tetrahydrofuran (2 ml) and LiOH.H2O (80 mg as a solution in 2 mL water) was added. After stirring at room temperature for 2 hours, water (10 mL) was added, and the solution extracted with ethyl acetate (5 mL). The aqueous layer was then acidified to pH 4 with 2N HCl, and extracted with ethyl acetate (2×20 mL); The latter extracts were combined and evaporated to afford N-BOC-D/L-2-phenylthiazol-4-ylglycine (116 mg, 0.35 mmol, 75%) as a white powder.

reactant | ethyl γ-chloro-α-oximinoacetoacetate | 10.8 mmol, 2.10 g | ClCC(C(C(=O)OCC)=NO)=O | C6H8ClNO4
reactant | thiobenzamide | 10.8 mmol, 1.49 g | C(C1=CC=CC=C1)(=S)N | C7H7NS
solvent | benzene | 15 mL | C1=CC=CC=C1 | C6H6
product | ethyl α-oximino-2-phenylthiazole-4-acetate | 3.22 g | N(O)=C(C(=O)OCC)C=1N=C(SC1)C1=CC=CC=C1 | C13H12N2O3S
